US07678826B2
b) Preparation of {4-chloro-2-[5-chloro-2-(1-methyl-2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzyl]-phenoxy}-acetic acid
A solution comprising {4-chloro-2-[5-chloro-2-(1-methyl-2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzyl]-phenoxy}-acetic acid benzyl ester (63 mg, 0.116 mmol) in MeOH (1 mL) is treated with 2 M NaOH (145 μL) and allowed to stir at RT overnight. The resulting suspension is filtered, dissolved in water (1 mL) and the pH of the solution is adjusted to pH 1 using 2 M HCl. A precipitate forms which is filtered and dried in a vacuum oven to afford the titled product; MH+=452.

reactant | {4-chloro-2-[5-chloro-2-(1-methyl-2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzyl]-phenoxy}-acetic acid benzyl ester | 0.116 mmol, 63 mg | C(C1=CC=CC=C1)OC(COC1=C(C=C(C=C1)Cl)CC1=C(C=CC(=C1)Cl)OC(C(N1CCCC1)=O)C)=O | C29H29Cl2NO5
reactant | NaOH | 2 M, 145 μL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | {4-chloro-2-[5-chloro-2-(1-methyl-2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzyl]-phenoxy}-acetic acid | ClC1=CC(=C(OCC(=O)O)C=C1)CC1=C(C=CC(=C1)Cl)OC(C(N1CCCC1)=O)C | C22H23Cl2NO5
